US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (158 mg, 0.37 mmol) with 4-(2,2-dimethyl-propane-1-sulfonyl)-benzylamine (166 mg, 0.73 mmol) by using tris(dibenzylideneacetone)dipalladium(0) (68 mg, 0.074 mmol), BINAP (92 mg, 0.148 mmol) and cesium carbonate (169 mg, 0.518 mmol) in anhydrous toluene (15 mL). Purify by chromatography on silica gel eluting with hexane/EtOAc (8:2) and then by reversed HPLC [Zorbax Bonus RP, 5 □M 21.2×100 mm, eluting with water/acetonitrile (0.05% TFA in each), UV detector (230 nm)] to give 7-chloro-6-[4-(2,2-dimethyl-propane-1-sulfonyl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (153 mg, 80%). MS (ES+) m/z: 517 (M+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.37 mmol, 158 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-(2,2-dimethyl-propane-1-sulfonyl)-benzylamine | 0.73 mmol, 166 mg | CC(CS(=O)(=O)C1=CC=C(CN)C=C1)(C)C | C12H19NO2S
reactant | BINAP | 0.148 mmol, 92 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.518 mmol, 169 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.074 mmol, 68 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-chloro-6-[4-(2,2-dimethyl-propane-1-sulfonyl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 153 mg, 80% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)S(=O)(=O)CC(C)(C)C | C24H28ClF3N2O3S
